US04105652
Boc-Asn-Ala-OBzl (XXIII)
The HCl salt of H-Ala-OBzl (43 g, 200 mmol) was dissolved in DMF (500 ml) and stirred with Boc-Asn-OH (46.5 g, 200 mmol), NMM (27 ml), HOBt (54 g), and DCC (45 g) at 0° C for 1.5 hr and 25° C for 17 hr. The reaction mixture was worked up as in Example 11 to a solid which was crystallized from tetrahydrofuran and minimum petroleum ether: 62.5 g (79.4%); mp 140°-141° C; [α]D25 -31.1° (c 1, MeOH). Anal. Calcd for C19H27N3O6 (393.44): C, 58.00; H, 6.92; N, 10.68. Found: C, 57.77; H, 7.09; N, 10.52.

reactant | HCl | Cl | ClH
reactant | H-Ala-OBzl | 200 mmol, 43 g | N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C10H13NO2
reactant | Boc-Asn-OH | 200 mmol, 46.5 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | NMM | 27 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 54 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Boc-Asn-Ala-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H27N3O6
